US09314023B2
At room temperature, to a mixture of 4-{4-[2-cyclopropyl-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-benzyloxy]-3-methyl-phenyl}-3-methyl-2,4-dioxo-butyric acid ethyl ester (described in Reference Preparation example 115) 5.5 g, tetrahydrofuran 100 ml was added hydrazine one hydrate 0.56 g and the resulting mixture was stirred for twelve hours. The reaction mixture was concentrated under reduced pressure to give 5-{4-[2-cyclopropyl-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-benzyloxy]-3-methyl-phenyl}-4-methyl-2H-pyrazole-3-carboxylic acid ethyl ester crude product 5 g. Next, the mixture of the above-mentioned 5-{4-[2-cyclopropyl-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-benzyloxy]-3-methyl-phenyl}-4-methyl-2H-pyrazole-3-carboxylic acid ethyl ester crude product 5 g, toluene 70 ml and dimethyl sulfate 3.8 g was stirred at 100° C. for three hours. To the reaction mixture was added water and was extracted with ethyl acetate. The organic layer was washed with water and was dried over anhydrous magnesium sulfate, and was then concentrated under reduced pressure. The resulting residue was subjected to a silica gel column chromatography to give 5-{4-[2-cyclopropyl-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-benzyloxy]-3-methyl-phenyl}-2,4-dimethyl-2H-pyrazole-3-carboxylic acid ethyl ester 1.4 g (hereinafter, referred to as “Present compound 48”).

reactant | 5-{4-[2-cyclopropyl-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-benzyloxy]-3-methyl-phenyl}-4-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1C)C1=CC(=C(C=C1)OCC1=C(C=CC=C1N1N=NN(C1=O)C)C1CC1)C | C26H28N6O4
reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
reactant | dimethyl sulfate | 3.8 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | 5-{4-[2-cyclopropyl-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-benzyloxy]-3-methyl-phenyl}-2,4-dimethyl-2H-pyrazole-3-carboxylic acid ethyl ester | 1.4 g | C(C)OC(=O)C=1N(N=C(C1C)C1=CC(=C(C=C1)OCC1=C(C=CC=C1N1N=NN(C1=O)C)C1CC1)C)C | C27H30N6O4
